US07645753B2
Ethoxy-6-methoxy-pyridine-3-carbaldehyde
To a 3:2 mixture of 5-bromo-3-ethoxy-2-methoxy-pyridine and 6-bromo-3-ethoxy-2-methoxy-pyridine (1.0 g, 4.31 mmol, 1.0 equiv) in anhydrous THF (20 mL) was added at −78° C. under Ar a solution of n-BuLi (3.23 mL, 5.17 mmol, 1.2 equiv, 1.6 M solution in hexane). After stirring for 1 h, anhydrous DMF (0.7 mL, 9.05 mmol, 2.1 equiv) was added and the reaction mixture stirred for an additional 30 min. A sat. solution of ammonium chloride (20 mL) was added and the solution extracted with ethyl acetate (3×50 mL). The combined organic phases were dried over MgSO4, the solvent removed by evaporation under reduced pressure and the crude material purified by twice recrystallization from isopropanol yielding 0.35 g (75%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 1.50 (t, J=7.0 Hz, 3H), 4.11 (s, 3H), 4.15 (q, J=7.0 Hz, 2H), 7.46 (d, J=1.9 Hz, 1H), 8.19 (d, J=1.9 Hz, 1H), 9.93 (s, 1H). 13C NMR (75 MHz, CDCl3): δ 14.44, 54.67, 64.59, 113.72, 127.59, 144.29, 144.31, 158.80, 189.66. MS (ISP): 181.8 [M+H]+.

reactant | 5-bromo-3-ethoxy-2-methoxy-pyridine | BrC=1C=C(C(=NC1)OC)OCC | C8H10BrNO2
reactant | 6-bromo-3-ethoxy-2-methoxy-pyridine | 4.31 mmol, 1.0 g, 1.0 equiv | BrC1=CC=C(C(=N1)OC)OCC | C8H10BrNO2
reactant | n-BuLi | 5.17 mmol, 1.6 M, 3.23 mL, 1.2 equiv | [Li]CCCC
reactant | DMF | 9.05 mmol, 0.7 mL, 2.1 equiv | CN(C)C=O | C3H7NO
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | Ethoxy-6-methoxy-pyridine-3-carbaldehyde | C(C)OC1=NC(=CC=C1C=O)OC | C9H11NO3
